US04118216
Preparation of N-(3,3-Diethoxypropyl)-N-(1,3-dioxolan-2-ylmethyl)-α-bromoacetamide
N-(3,3-Diethoxypropyl)-N-(1,3-dioxolan-2-ylmethyl)amine (0.05 mole), benzene (100 ml), water (100 ml) and sodium carbonate (2 grams) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The reaction mixture is cooled to a temperature of from 5° to 10° C and bromoacetyl chloride (0.05 mole) is added dropwise with stirring. After the addition is completed stirring is continued until the reaction mixture has reached room temperature. After this time the organic phase is separated from the aqueous phase and is washed with water. The washed solution is then dried over anhydrous magnesium sulfate, filtered and stripped of solvent under reduced pressure to yield the desired product N-(3,3-diethoxypropyl)-N-(1,3-dioxolan-2-ylmethyl)-α-bromoacetamide as the residue.

reactant | N-(3,3-Diethoxypropyl)-N-(1,3-dioxolan-2-ylmethyl)amine | 0.05 mole | C(C)OC(CCNCC1OCCO1)OCC | C11H23NO4
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | sodium carbonate | 2 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromoacetyl chloride | 0.05 mole | BrCC(=O)Cl | C2H2BrClO
solvent | water | 100 ml | O | H2O
product | N-(3,3-diethoxypropyl)-N-(1,3-dioxolan-2-ylmethyl)-α-bromoacetamide | C(C)OC(CCN(C(CBr)=O)CC1OCCO1)OCC | C13H24BrNO5
